US08633175B2
3′-(4-piperidinyl)-4-biphenylcarboxamide hydrochloride
A mixture of 1,1-dimethylethyl 4-[4′-(aminocarbonyl)-3-biphenylyl]-1-piperidine carboxylate (0.95 g, 0.0025 mol; I-VII-3) and 4N HCl in dioxane (5 mL) in dichloromethane (5 mL) was stirred at ambient temperature for 3 hr. The resulting solid was collected by filtration, washed with dichloromethane, diethyl ether and air-dried to give the title compound as a white solid, used without further purification. LC/MS (method A) 1.17 min; m/z 281 (M+H).

reactant | 1,1-dimethylethyl 4-[4′-(aminocarbonyl)-3-biphenylyl]-1-piperidine carboxylate | 0.0025 mol, 0.95 g | NC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C23H28N2O3
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3′-(4-piperidinyl)-4-biphenylcarboxamide hydrochloride | Cl.N1CCC(CC1)C=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)N | InChI=1S/C18H20N2O.ClH/c19-18(21)15-6-4-13(5-7-15)16-2-1-3-17(12-16)14-8-10-20-11-9-14;/h1-7,12,14,20H,8-11H2,(H2,19,21);1H
